### PR TITLE
finish

### PR DESCRIPTION
**Pull request by Xialu3421**

### CODE REVIEW

File: src/chapter19/exercises/exercise01.lean [hunk 1]
```diff
@@ -161,19 +161,66 @@ begin
...
+lemma padic_val_nat_three_aux (a b c : ℕ) : padic_val_nat 3 (2 ^ a * 3 ^ b * 5 ^ c) = b :=
+begin
+  haveI : fact (nat.prime 3) := fact.mk nat.prime_three,
+  rw [padic_val_nat.mul 3 (mul_ne_zero _ _), padic_val_nat.mul, padic_val_nat.prime_pow,
+    padic_val_nat.eq_zero_of_not_dvd, padic_val_nat.eq_zero_of_not_dvd],
+  { simp },
+  { intro h, 
+    replace h := nat.prime.dvd_of_dvd_pow nat.prime_three h,
+    norm_num at h, },
+    { intro h,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise01.lean]:
```suggestion
  { intro h, 
```

File: src/chapter19/exercises/exercise01.lean [hunk 2]
```diff
@@ -161,19 +161,66 @@ begin
...
+lemma padic_val_nat_five_aux (a b c : ℕ) : padic_val_nat 5 (2 ^ a * 3 ^ b * 5 ^ c) = c :=
+begin
+  haveI : fact (nat.prime 5) := fact.mk nat.prime_five,
+  rw [padic_val_nat.mul 5 (mul_ne_zero _ _), padic_val_nat.mul, padic_val_nat.prime_pow,
+    padic_val_nat.eq_zero_of_not_dvd, padic_val_nat.eq_zero_of_not_dvd],
+  { simp },
+  { intro h, 
+    replace h := nat.prime.dvd_of_dvd_pow nat.prime_five h,
+    norm_num at h, },
+    { intro h,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise01.lean]:
```suggestion
  { intro h, 
```

File: src/chapter19/exercises/exercise01.lean [hunk 3]
```diff
@@ -161,19 +161,66 @@ begin
...
+  haveI : fact (nat.prime 7) := fact.mk nat.prime_seven,
+  rw [padic_val_nat.mul 7 (mul_ne_zero _ _), padic_val_nat.mul, padic_val_nat.eq_zero_of_not_dvd,
+    padic_val_nat.eq_zero_of_not_dvd, padic_val_nat.eq_zero_of_not_dvd],
+  { intro h, 
+    replace h := nat.prime.dvd_of_dvd_pow nat.prime_seven h,
+    norm_num at h, },
+  { intro h, 
+    replace h := nat.prime.dvd_of_dvd_pow nat.prime_seven h,
+    norm_num at h, },
+    { intro h,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise01.lean]:
```suggestion
  { intro h, 
```

**Review by kbuzzard — COMMENTED** [review]
This is very difficult to review because you made so many changes!

File: src/chapter19/exercises/exercise03.lean [hunk 4]
```diff
@@ -9,7 +10,30 @@ Find the possibilities for f .
...
+      simpa [h', zero_eq_mul, sub_eq_zero] using h,
+    },
+    specialize this h,
+    exact this,
+  },
+  {
+    rintro (h | h);
+    simp [h] at *;
+    ring,
+  },
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise03.lean]:
```suggestion
  have h' : (f x)^2 + (f x) + 3 = x^2 - 3 * x + 5 ↔ (f x - (x - 2)) * (f x - (-x + 1)) = 0,
  { split; intro h; nlinarith },
  rw [h', mul_eq_zero],
  congr' 2;
  simp [sub_eq_zero],
```

You seem to be repeating yourself in this argument. It seems to me that your lines 25 and 26 are the key argument (the proof of h'); after that you just rewrite h' and then I can finish in three lines :P

File: src/chapter19/exercises/exercise04.lean [hunk 5]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
+lemma parta : ¬ (∀ (X Y Z : Type) (f : X → Y) (g : Y → Z), surjective (g ∘ f) → surjective f) :=
 begin
-  sorry
+  by_contra,
+  specialize h X Y Z f g,
+  have hgf : surjective (g ∘ f),
+  {intro z,
+  cases z,
+  use X.a,
+  refl},
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  { rintro z,
    cases z,
    use X.a,
    refl },
```
Use the correct spacing :-) You don't usually need to do `intro` then `cases` -- you can probably do both of them at once with `rintro ⟨⟩,`

File: src/chapter19/exercises/exercise04.lean [hunk 6]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
+  specialize h hgf,
+  specialize h Y.c,
+  cases h with x h,
+  cases x,
+  cases h,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  obtain ⟨⟨⟩, ⟨⟩⟩ := h hgf Y.c,
```
does all of these five lines in 1 line ;-) See if you can figure out how I managed to create this line (I just deleted your lines one at a time)

File: src/chapter19/exercises/exercise04.lean [hunk 7]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
 
 lemma partb : ∀ (X Y Z : Type) (f : X → Y) (g : Y → Z), surjective (g ∘ f) → surjective g :=
 begin
-  sorry
+  intros X Y Z f g hgf,
+  intro b,
+  specialize hgf b,
+  cases hgf with a hgf,
+  use f a,
+  exact hgf,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  intros X Y Z f g hgf b,
  obtain ⟨a, hgf⟩ := hgf b,
  exact ⟨f a, hgf⟩,
```
I turned two lines into one line three times. Do you understand why my version works?

File: src/chapter19/exercises/exercise04.lean [hunk 8]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
+end
+
+lemma gf_injective : injective (g ∘ f) :=
+begin
+  intros a b h,
+  cases a,
+  cases b,
+  refl,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  rintros ⟨⟩ ⟨⟩ _,
  refl,
```

File: src/chapter19/exercises/exercise04.lean [hunk 9]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
 end
 
 lemma partc : ∀ (X Y Z : Type) (f : X → Y) (g : Y → Z), injective (g ∘ f) → injective f :=
 begin
-  sorry
+  intros X Y Z f g hgf a b hf,
+  have hg : g (f a) = g (f b),
+  {rw hf},
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  { rw hf },
```

File: src/chapter19/exercises/exercise04.lean [hunk 10]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
+  specialize hgf hg,
+  exact hgf,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  exact hgf hg,
```

File: src/chapter19/exercises/exercise04.lean [hunk 11]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
 
-lemma partd : ∀ (X Y Z : Type) (f : X → Y) (g : Y → Z), injective (g ∘ f) → injective g :=
+lemma partd : ¬ (∀ (X Y Z : Type) (f : X → Y) (g : Y → Z), injective (g ∘ f) → injective g) :=
 begin
-  sorry
+  by_contra,
+  specialize h X Y Z f g,
+  specialize h gf_injective,
+  have hy : g Y.b = g Y.c,
+  {unfold g},
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  { unfold g },
```

File: src/chapter19/exercises/exercise04.lean [hunk 12]
```diff
@@ -12,22 +12,81 @@ open function -- so we can write `injective`/`surjective` instead of `function.i
...
+  specialize h hy,
+  simp at h,
+  exact h,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise04.lean]:
```suggestion
  simpa using h,
```
This removes the nonterminal `simp`.

**Review by kbuzzard — COMMENTED** [review]
Here are some more comments

File: src/chapter19/exercises/exercise05-partf.lean [hunk 13]
```diff
@@ -0,0 +1,169 @@
...
+      apply nat.ord_proj_le,
+      exact ne_of_gt ha,
+      exact haf, },
+    suffices : b < a,
+    { linarith, },
+    { have hc'' :  2 ^ k2 * (b / 2 ^ k2) < 2 ^ k1 * (a / 2 ^ k1),
+      { rw ← h, apply mul_lt_mul_of_pos_right hc' hak, },
+    rw mul_comm (2 ^ k2) (b / 2 ^ k2) at hc'',
+    rw nat.div_mul_cancel at hc'',
+    swap, exact hbd,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
    rw nat.div_mul_cancel hbd at hc'',
```
You don't need to create the second goal (which really should be done in `{}`s which is why we don't want to create it)

File: src/chapter19/exercises/exercise05-partf.lean [hunk 14]
```diff
@@ -0,0 +1,169 @@
+import tactic
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean:1]: Oh this is very impressive. Well done!

File: src/chapter19/exercises/exercise05-partf.lean [hunk 15]
```diff
@@ -0,0 +1,169 @@
...
+import combinatorics.pigeonhole
+import data.int.parity
+import data.nat.factorization.basic
+
+
+lemma nat.ord_compl_eq_dvd (a b : ℕ) (h : ord_compl[2] a = ord_compl[2] b) (ha : 0 < a) (hab : a < b) :
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]: I think it's better to write {a b : ℕ} here because Lean can guess a and b from h, so you can leave them implicit.

File: src/chapter19/exercises/exercise05-partf.lean [hunk 16]
```diff
@@ -0,0 +1,169 @@
...
+  have hbd := nat.ord_proj_dvd b 2,
+  have haf := pow_pos h02 k1,
+  have hbf := pow_pos h02 k2,
+  have hab : k1 ≤ k2,
+  { by_contra hc,
+    push_neg at hc,
+    have hc' : 2 ^ k2 < 2 ^ k1,
+    { rw pow_lt_pow_iff,
+      exact hc,
+      norm_num, },
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
    { rwa pow_lt_pow_iff,
      norm_num, },
```
avoids having two goals (`rwa` is "rewrite, then assumption" so it finds `hc`)

File: src/chapter19/exercises/exercise05-partf.lean [hunk 17]
```diff
@@ -0,0 +1,169 @@
...
+    have hak : 0 < a / 2 ^ k1,
+    { apply nat.div_pos,
+      apply nat.ord_proj_le,
+      exact ne_of_gt ha,
+      exact haf, },
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
    have hak : 0 < a / 2 ^ k1 := nat.div_pos (nat.ord_proj_le _ ha.ne') haf,
```
does it all in one line. In general if you just have `apply` or `refine` or `exact` you can do everything in term mode. It's when you have `rw` and `simp` that you really have to use tactic mode.

File: src/chapter19/exercises/exercise05-partf.lean [hunk 18]
```diff
@@ -0,0 +1,169 @@
...
+    suffices : b < a,
+    { linarith, },
+    { have hc'' :  2 ^ k2 * (b / 2 ^ k2) < 2 ^ k1 * (a / 2 ^ k1),
+      { rw ← h, apply mul_lt_mul_of_pos_right hc' hak, },
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
    have hc'' :  2 ^ k2 * (b / 2 ^ k2) < 2 ^ k1 * (a / 2 ^ k1),
    { rw ← h, apply mul_lt_mul_of_pos_right hc' hak, },
```
You don't need the indentation after `suffices`.

File: src/chapter19/exercises/exercise05-partf.lean [hunk 19]
```diff
@@ -0,0 +1,169 @@
...
+    rw mul_comm (2 ^ k2) (b / 2 ^ k2) at hc'',
+    rw nat.div_mul_cancel at hc'',
+    swap, exact hbd,
+    rw mul_comm (2 ^ k1) (a / 2 ^ k1) at hc'',
+    rw nat.div_mul_cancel at hc'',
+    swap, exact had,
+    exact hc'', }, },
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
    rwa nat.div_mul_cancel had at hc'', },
```
is a one-liner. I removed a `}` here because I removed a `{` on line 36.

File: src/chapter19/exercises/exercise05-partf.lean [hunk 20]
```diff
@@ -0,0 +1,169 @@
...
+  have := nat.pow_div hab h02,
+  rw ← this,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]: You don't need to name it if you only use it once in a rewrite:
```suggestion
  rw ← nat.pow_div hab h02,
```

File: src/chapter19/exercises/exercise05-partf.lean [hunk 21]
```diff
@@ -0,0 +1,169 @@
...
+  -- again we need divisibility to proceed
+  have hkd := pow_dvd_pow 2 hab,
+  rw mul_comm,
+  rw ← nat.mul_div_assoc _ hkd,
+  rw mul_comm a (2^k2),
+  rw nat.mul_div_assoc,
+  swap, exact had,
+  rw h,
+  rw mul_comm,
+  rw nat.div_mul_cancel hbd,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
  rw [mul_comm, ← nat.mul_div_assoc _ hkd, mul_comm a (2^k2), nat.mul_div_assoc _ had,
    h, mul_comm, nat.div_mul_cancel hbd],
```
You can do multiple rewrites in one line.

File: src/chapter19/exercises/exercise05-partf.lean [hunk 22]
```diff
@@ -0,0 +1,169 @@
...
+          finset.mem_Icc, nat.odd_iff_not_even] at hx ⊢,
+        refine ⟨((x-1)/2), _, _⟩,
+        { rcases hx with ⟨⟨h1, h2⟩, h3⟩,
+          zify at h2 ⊢,
+          rw int.div_lt_iff_lt_mul,
+          linarith,
+          norm_num, },
+        { rcases hx with ⟨⟨h1, h2⟩, h3⟩,
+          rw ← nat.odd_iff_not_even at h3,
+          unfold odd at h3,
```
Comment (kbuzzard) [inline src/chapter19/exercises/exercise05-partf.lean]:
```suggestion
```
You don't need this `unfold` line, you're going to do cases on `h3` and `cases` can see through definitional equality.

**Review by kbuzzard — COMMENTED** [review]
Note to self: I'm up to line 123 of exercise05-partf.

**Comment by kbuzzard** [comment]
Thanks! I've merged into master.
